US05041618
Preparation of methyl 2-methylphenylglyoxalate
1.4 g (10 millimoles) of ortho-methylacetophenone, 2.0 g of potassium hydroxide, 200 ml of pyridine and 100 ml of water are initially taken at +10° C. 5 g of potassium permanganate in 250 ml of water are added dropwise and the mixture is stirred for 2 hours at this temperature. Thereafter, sodium bisulfite solution is added dropwise until the red coloration of the mixture vanishes. The mixture is filtered, the filtrate is acidified with concentrated hydrochloric acid and filtered again and this filtrate is extracted with 5×50 ml of methyl tert-butyl ether. The organic phase is dried over sodium sulfate and evaporated down and the residue is then directly reacted further (ratio of ketoacid to benzoic acid 8-9:1 according to 1H-NMR). 2.0 g of the above mixture in 20 ml of dichloromethane are initially taken and 1.6 g (16 millimoles) of triethylamine are added. 1.5 g (16 millimoles) of methyl chloroformate are added dropwise at room temperature. After 1 hour at this temperature, the mixture is extracted with phosphate buffer (pH 7) and evaporation and distillation are carried out.

reactant | ortho-methylacetophenone | 10 millimoles, 1.4 g | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | potassium permanganate | 5 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | triethylamine | 16 millimoles, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 16 millimoles, 1.5 g | ClC(=O)OC | C2H3ClO2
solvent | water | 250 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-methylphenylglyoxalate | CC1=C(C=CC=C1)C(C(=O)OC)=O | C10H10O3
